US04162325
9.12 g (0.04 mole) of N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester are heated for 12 hours under reflux with 7.7 g (0.1 mole) of n-butylamine. The reaction mixture is evaporated to dryness and the crystallized residue is washed with diethyl ether. The residual product is dried after filtration and washing with diethyl ether. 9.9 g of N-n-butyl-2-(2-oxo-1-pyrrolidineacetamido)-acetamide are thus obtained (yield: 97% of theory); M.P. 105°-106° C.

reactant | N-(2-oxo-1-pyrrolidineacetyl)-glycine ethyl ester | 0.04 mole, 9.12 g | C(C)OC(CNC(CN1C(CCC1)=O)=O)=O | C10H16N2O4
reactant | n-butylamine | 0.1 mole, 7.7 g | C(CCC)N | C4H11N
product | N-n-butyl-2-(2-oxo-1-pyrrolidineacetamido)-acetamide | 9.9 g, yield: 97% | C(CCC)NC(CNC(CN1C(CCC1)=O)=O)=O | C12H21N3O3
